US07528262B2
1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indole.
1-[3-(4-Iodophenoxy)propyl]-pyrrolidine (66 mg, 0.2 mmol), indole (28 mg, 0.24 mmol), copper(I) iodide (0.4 mg, 0.002 mmol), trans-1,2-diaminocyclohexane (0.0024 mmol, 0.02 mmol), and potassium phosphate tribasic (89 mg, 0.42 mmol) were stirred at 90° C. in dioxane overnight. The reaction mixture was filtered through celite and washed with dichloromethane. The filtrate was concentrated, and the resulting residue was purified by semi-prep LC-MS to give 22.4 mg of the desired product (35% yield). LC-MS (C21H24N2O calc'd 320) m/z 321 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.67 (d, J=6.9 Hz, 1H), 7.45 (d, J=8.4 Hz, 1H), 7.40-7.35 (m, 2H), 7.27 (d, J=3 Hz, 1H), 7.22-7.10 (m, 2H), 7.04-6.99 (m, 2H), 6.64 (d, J=3 Hz, 1H), 4.08 (t, J=6.3 Hz, 2H), 2.66 (t, J=7.2 Hz, 2H), 2.57-2.52 (m, 4H), 2.09-2.00 (m, 2H), 1.83-1.78 (m, 4H).

reactant | 1-[3-(4-Iodophenoxy)propyl]-pyrrolidine | 0.2 mmol, 66 mg | IC1=CC=C(OCCCN2CCCC2)C=C1 | C13H18INO
reactant | indole | 0.24 mmol, 28 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | potassium phosphate tribasic | 0.42 mmol, 89 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.002 mmol, 0.4 mg | [Cu]I
catalyst | trans-1,2-diaminocyclohexane | 0.0024 mmol | N[C@H]1[C@@H](CCCC1)N | C6H14N2
product | 1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indole | 22.4 mg, 35% yield | N1(CCCC1)CCCOC1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C21H24N2O
